US04649160
6.27 g of 4-methylthiophenethyl alcohol in 100 ml of dimethyl sulfoxide were treated with 3.58 g of a 50% sodium hydride dispersion in mineral oil and the mixture was stirred at 60° C. for 10 minutes. 3.53 g of chloroacetic acid were added and the heating was continued at 80° C. for 3 hours while stirring. The mixture was cooled, poured into water and washed with ethyl acetate. The aqueous phase was acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase was separated, washed well with water, dried over sodium sulfate, filtered and evaporated to dryness. The residue was recrystallized from toluene/hexane to give 3.89 g (46%) of 2-(4-methylthiophenyl)ethoxyacetic acid of melting 58°-60° C.

reactant | 4-methylthiophenethyl alcohol | 6.27 g | CSC1=CC=C(CCO)C=C1 | C9H12OS
reactant | sodium hydride | [H-].[Na+]
reactant | chloroacetic acid | 3.53 g | ClCC(=O)O | C2H3ClO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-(4-methylthiophenyl)ethoxyacetic acid | 3.89 g, 46% | CSC1=CC=C(C=C1)CCOCC(=O)O | C11H14O3S
